US06262103B1
3-Cyclobutoxy-6,6-dimethyl-1-(pyrazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a solution of 6,6-dimethyl-3-methanesulphinyl-1-(pyrazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (178 mg, 0.59 mmol) in cyclobutanol (1 mL) and THF (3 mL) was added sodium hydride (70 mg of a 60% dispersion in oil, 1.76 mmol). After effervescence had ceased the mixture was heated at 95° C. for 2h before the solvent was evaporated. The residue was partitioned between EtOAc (20 mL) and water (20 mL) and the organic layer separated, dried (Na2SO4) and evaporated. The residue was chromatographed on silica gel, eluting with petrol:EtOAc (1:1) to give the title compound (22 mg, 12%) as a pale yellow solid. mp 202-204° C. Found: C, 62.48; H, 6.24; N, 8.49%. C17H20N2O2S .0.5(H2O) requires: C, 62.74; H, 6.50; N, 8.61% 1H NMR (360 MHz, CDCl3) δ 1.06 (6H, s), 1.60-1.76 (1H, m), 1.86-1.97 (1H, m), 2.37 (2H, s), 2.38-2.47 (2H, m), 2.50-2.60 (2H, m), 2.79 (2H, s), 4.76 (1H, pentet, J=7.2 Hz), 6.45 (1H, d, J=2.4 Hz), 7.62 (1H, d, J=2.4 Hz). MS (ES+) 317 (M+1).

reactant | 6,6-dimethyl-3-methanesulphinyl-1-(pyrazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.59 mmol, 178 mg | CC1(CC(C=2C(=C(SC2S(=O)C)C2=NNC=C2)C1)=O)C | C14H16N2O2S2
reactant | sodium hydride | [H-].[Na+]
reactant | cyclobutanol | 1 mL | C1(CCC1)O | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-Cyclobutoxy-6,6-dimethyl-1-(pyrazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 22 mg, 12% | C1(CCC1)OC1=C2C(=C(S1)C1=NNC=C1)CC(CC2=O)(C)C | C17H20N2O2S
